US03994940
To an ice cold solution of β-phthalimidopropionic acid (2.41 g., 0.011 mole) in dry tetrahydrofuran (20 ml.) is added 1,1'-carbonyldiimidazole (1.94 g., 0.011 mole) under nitrogen. The ice bath is removed and the reaction stirred for 11/2 hours before the bath is replaced and 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-(o-chlorophenyl)-quinazoline (3.22 g., 0.01 mole) in tetrahydrofuran (25 ml.) is added. The reaction is stirred for 18 hours at ambient temperature before the reaction is concentrated in vacuo. The residue is mixed with water, neutralized with sodium bicarbonate and extracted with methylene chloride. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give N-[6-chloro-4-hydroxy-4-(o-chlorophenyl)-3(4H)-quinazolinyl]-1,3-dioxo-2-isoindolinepropionamide.

reactant | β-phthalimidopropionic acid | 0.011 mole, 2.41 g | C1(C=2C(C(N1CCC(=O)O)=O)=CC=CC2)=O | C11H9NO4
reactant | 1,1'-carbonyldiimidazole | 0.011 mole, 1.94 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-(o-chlorophenyl)-quinazoline | 0.01 mole, 3.22 g | NN1C=NC2=CC=C(C=C2C1(C1=C(C=CC=C1)Cl)O)Cl | C14H11Cl2N3O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[6-chloro-4-hydroxy-4-(o-chlorophenyl)-3(4H)-quinazolinyl]-1,3-dioxo-2-isoindolinepropionamide | ClC=1C=C2C(N(C=NC2=CC1)NC(CCN1C(C2=CC=CC=C2C1=O)=O)=O)(C1=C(C=CC=C1)Cl)O | C25H18Cl2N4O4
